US07713993B2
Synthesis of 2-{4-chloro-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorophenyl)[1,3,4]oxadiazole
IPEA (1.2 mL), EDC (0.89 g) and HOBT (0.62 g) were added to a suspension of 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valeric acid trifluoroacetic acid salt (1.30 g) and 4-fluorobenzhydrazide (0.37 g) in DMF (25 mL) at room temperature, and the reaction solution was stirred at room temperature for two hours. A saturated sodium bicarbonate solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer washed with a saturated sodium chloride solution, dried over magnesium sulfate and then concentrated under reduced pressure. A solution of the resulting residue in phosphorus oxychloride (6 mL) was heated under reflux for three hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the resulting residue, followed by extraction with chloroform. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system) to obtain 376 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 0.62 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valeric acid trifluoroacetic acid salt | 1.30 g | FC(C(=O)O)(F)F.ClCCC\C(\C(=O)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | 4-fluorobenzhydrazide | 0.37 g | FC1=CC=C(C(=O)NN)C=C1 | C7H7FN2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 0.89 g
product | 2-{4-chloro-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorophenyl)[1,3,4]oxadiazole | 376 mg | ClCCC\C(=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)\C=1OC(=NN1)C1=CC=C(C=C1)F | C24H22ClFN4O2
